US04876251
To a solution of 838 mg 2-benzyloxycarbonylamino-5-oxo-2tetrahydrofurancarboxylic acid in 5 ml of dimethylformamide 120 mg sodium hydride (60% dispersion in mineral oil) was added, while stirring and ice-cooling the solution. 648 mg 4-nitrobenzyl bromide was then added, and the mixture was stirred at room temperature for 2.5 hours. To the reaction mixture a saturated aqueous solution of sodium bicarbonate was added, then the resulting mixture was extracted with ethyl acetate. The organic layer, after washing with brine, was dried (MgSO4), and the solvent was distilled off. The resulting residue was eluted with hexane-ethyl acetate (1:1) via column chromatography using silica gel. The eluted fraction containing the desired product was collected and concentrated under reduced pressure to yield 687 mg 4-nitrobenzyl 2-benzoyloxycarbonylamino-5-oxo-2-tetrahydrofurancarboxylate in the form of a colorless crystal.

reactant | 2-benzyloxycarbonylamino-5-oxo-2tetrahydrofurancarboxylic acid | 838 mg | C(C1=CC=CC=C1)OC(=O)NC1(OC(CC1)=O)C(=O)O | C13H13NO6
reactant | 4-nitrobenzyl bromide | 648 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 5 ml, 120 mg | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 2-benzoyloxycarbonylamino-5-oxo-2-tetrahydrofurancarboxylate | 687 mg | C(C1=CC=CC=C1)(=O)OC(=O)NC1(OC(CC1)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H16N2O9
